US05840732
i) Synthesis of 5-hexylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione
To a solution of 386 mg (0.99 mmol) of 5-(1-hydroxyhexyl)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione in 8 ml of pyridine, 4 ml of acetic anhydride was added, followed by stirring at room temperature for 2 hours and then at 90° C. for 21 hours. The mixture was dissolved in dichloromethane, washed with saturated aqueous sodium hydrogen carbonate and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, ethyl acetate/hexane=4/1→ethyl acetate) to yield 79.2 mg (22%, yellow oily substance) of the desired product.

reactant | 5-(1-hydroxyhexyl)-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione | 0.99 mmol, 386 mg | OC(CCCCC)C1C(N(C(O1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C20H27N3O5
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 4 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-hexylidene-3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]oxazolidine-2,4-dione | C(CCCCC)=C1C(N(C(O1)=O)CCCCOC=1C=2N(C=CC1)C=CN2)=O | C20H25N3O4
